US05712300
Preparation of tert-Butyl α-Methyl-3-(2-methylpropyl)-2-oxo-1-(2-phenylethyl)-3-pyrrolidineacetate
LDA (1.5 mL, 3.0 mmol, 2.0M in heptane/THF/ethylbenzene) is added to a solution of tert-butyl 3-(2-methylpropyl)-2-oxo-1-(2-phenylethyl)-3-pyrrolidineacetate (967 mg, 2.69 mmol) and THF (11.0 mL) at -78° C. The solution is stirred at -78° C. for 30 minutes and then iodomethane (0.19 mL, 3.1 mmol) is added. The solution is stirred at -78° C. for 2 hours and then allowed to slowly warm to room temperature overnight. Aqueous workup (EtOAc, MgSO4) and purification by flash chromatography (1:1 hexane:EtOAc) gives 791 mg (79%) of the title compound as an oil.

reactant | LDA | 3.0 mmol, 2.0M, 1.5 mL | [Li+].CC(C)[N-]C(C)C
reactant | tert-butyl 3-(2-methylpropyl)-2-oxo-1-(2-phenylethyl)-3-pyrrolidineacetate | 2.69 mmol, 967 mg | CC(CC1(C(N(CC1)CCC1=CC=CC=C1)=O)CC(=O)OC(C)(C)C)C | C22H33NO3
reactant | iodomethane | 3.1 mmol, 0.19 mL | IC | CH3I
solvent | THF | 11.0 mL | C1CCOC1 | C4H8O
product | tert-Butyl α-Methyl-3-(2-methylpropyl)-2-oxo-1-(2-phenylethyl)-3-pyrrolidineacetate | 791 mg, 79% | CC(C(=O)OC(C)(C)C)C1(C(N(CC1)CCC1=CC=CC=C1)=O)CC(C)C | C23H35NO3
